US08222266B2
Preparation 19: 4-(2,2-Difluoro-benzo[1,3]dioxol-4-yl)-2-methylsulfanyl-pyrimidine (Prep19)
4-Iodo-2-methylsulfanyl-pyrimidine (453 mg, 1.79 mmol), 2,2-difluoro-benzo[1,3]dioxole-4-boronic acid (727 mg, 3.59 mmol), Na2CO3 (380 mg, 3.59 mmol), 2-(dicyclohexylphosphino)biphenyl (125 mg, 0.36 mmol) were suspended in degassed DME-water solution (5-1, 6.5 ml). After bubbling N2 into the mixture for 20 minutes, Pd(PPh3)4 (413 mg, 0.36 mmol) was added and the mixture was stirred at 90° C. for 3 hours. The solvent was evaporated under vacuum and the crude was dissolved in DCM and washed with water and brine. The organic phase was dried (Na2SO4) and evaporated; the crude was purified by flash chromatography with hexane-ethyl acetate (8-2) to give the title compound (326 mg, 65% yield).

reactant | 4-Iodo-2-methylsulfanyl-pyrimidine | 1.79 mmol, 453 mg | IC1=NC(=NC=C1)SC | C5H5IN2S
reactant | 2,2-difluoro-benzo[1,3]dioxole-4-boronic acid | 3.59 mmol, 727 mg | FC1(OC2=C(O1)C=CC=C2B(O)O)F | C7H5BF2O4
reactant | Na2CO3 | 3.59 mmol, 380 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-(dicyclohexylphosphino)biphenyl | 0.36 mmol, 125 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
solvent | DME water | 6.5 ml | COCCOC.O
catalyst | Pd(PPh3)4 | 0.36 mmol, 413 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(2,2-Difluoro-benzo[1,3]dioxol-4-yl)-2-methylsulfanyl-pyrimidine | 326 mg, 65% yield | FC1(OC2=C(O1)C=CC=C2C2=NC(=NC=C2)SC)F | C12H8F2N2O2S
